US07326715B2
To a mixture of 2-(6-chloro-2-methylsulfanyl-pyrimidin-4-yl-amino)-ethanol (404 mg), 3-(trifluoromethyl)phenyl boronic acid (384 mg) and sodium carbonate (585 mg) in toluene (12 ml) with a few drops of DME and ethanol, was added Pd(PPh3)4 (106 mg). The resulting suspension was subjected to microwave heating at 150° C. for 20 mins. Reaction mixture was filtered through a celite pad, washed with ethyl acetate and concentrated in vacuo. The residual brown gum was columned on silica gel using heptane and ethyl acetate (1:1) as eluant. Product obtained was dissolved in tetrahydrofuran and stirred with 3-amino-1,2-propanediol at room temperature for 30 mins then diluted with ethyl acetate (40 ml) and washed with 1M hydrochloric acid (2×100 ml), brine (40 ml), dried over MgSO4 and concentrated in vacuo to give 200 mg of 2-[2-methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-4-yl-amino]-ethanol as a brown gum. Remaining acidic aqueous layer was slowly neutralised and the resulting white precipitate was filtered and dried. This generated 2-[2-methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-4-yl-amino]-ethanol as a white solid (450 mg).

reactant | 2-(6-chloro-2-methylsulfanyl-pyrimidin-4-yl-amino)-ethanol | 404 mg | ClC1=CC(=NC(=N1)SC)NCCO | C7H10ClN3OS
reactant | 3-(trifluoromethyl)phenyl boronic acid | 384 mg | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 585 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-amino-1,2-propanediol | NCC(CO)O | C3H9NO2
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
catalyst | DME | a few drops | COCCOC | C4H10O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 106 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-4-yl-amino]-ethanol | 200 mg | CSC1=NC(=CC(=N1)NCCO)C1=CC(=CC=C1)C(F)(F)F | C14H14F3N3OS
